US05883258
Example 5 was repeated, except that 4 kg of 93% by weight pure benzisothiazolone and 90 g of 1,3-dimethylimidazolidinone in 5 l of chlorobenzene were phosgenated. To obtain the reaction product, 200 ml of high boiling paraffin oil were added prior to the vacuum distillation, and a Vigreux column of 20 cm in length was used. 3-Chlorobenzisothiazole of a purity of 99.4% by weight was obtained in a yield of 92.7% of theory.

reactant | benzisothiazolone | S1(N=CC2=C1C=CC=C2)=O | C7H5NOS
reactant | 1,3-dimethylimidazolidinone | 90 g | CN1C(N(CC1)C)=O | C5H10N2O
reactant | chlorobenzene | 5 l | ClC1=CC=CC=C1 | C6H5Cl
product | 3-Chlorobenzisothiazole | yield of 92.7% | ClC1=NSC2=C1C=CC=C2 | C7H4ClNS
